US07056925B2
N-(2-amino-4-bromophenyl)-N,N-bis(2-methoxyethyl)amine
A mixture of 4-bromo-1-fluoro-2-nitrobenzene (0.44 g, 2mmol) and N,N-bis(2-methoxyethyl)amine (0.266 g, 2.4 mmol) in acetonitrile (10 mL) in a capped 20 mL vial was shaken at 80° C. overnight and concentrated. The concentrate was dissolved in methanol (10 mL), and treated with Raney nickel (50% water suspension, 0.40 g, 6.8 mmol). The vial was filled with excessive hydrogen, shaken at 50° C. for 1 hour, filtered, and concentrated. The concentrate was purified by preparative HPLC with acetonitrile/water containing 0.1% TFA to provide the desired product. MS (APCI(+)) m/z 304 (M+H)+.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 2mmol, 0.44 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | N,N-bis(2-methoxyethyl)amine | 2.4 mmol, 0.266 g | COCCNCCOC | C6H15NO2
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Raney nickel | 6.8 mmol, 0.40 g | [Ni] | Ni
product | N-(2-amino-4-bromophenyl)-N,N-bis(2-methoxyethyl)amine | NC1=C(C=CC(=C1)Br)N(CCOC)CCOC | C12H19BrN2O2
